US07829572B2
Preparation of 4-amino-N-(1-(3,4-difluorophenyl)propan-2-yl)-2-(trifluoromethyl)nicotinamide
4-amino-2-(trifluoromethyl)nicotinic acid (4.4 g, 18.14 mmol) was suspended in a mixture of anhydrous DMF (100 mL) and anhydrous dichloromethane (200 mL). To this was added triethylamine (6 g, 60 mmol), followed by 1-(3,4-difluorophenyl)propan-2-amine (3.75 g, 21.90 mmol). HBTU (9.63 g, 25.4 mmol) was added and the mixture was allowed to stir at room temperature overnight. The reaction mixture was concentrated in vacuo to remove dichloromethane. The resultant DMF solution was poured into water and extracted twice with ethyl acetate. The organic layer was washed successively with 1N NaOH and water, then dried over magnesium sulfate, filtered and concentrated in vacuo to give an oil. This oil was purified by silica gel column chromatography using 20-40% acetone/hexanes as eluant to provide the product as a colorless solid (6.57 g, 55% yield). 1H NMR (400 MHz, CDCl3) δ 8.2 (d, 1H), 7.1 (m, 2H), 6.95 (m, 1H), 6.7 (d, 1H), 4.07 (m, 1H), 4.9 (bd, 2H), 4.4 (m, 1H), 2.7-2.9 (dd, 2H), 1.2 (d, 2H). MS m/z 360.2 (M+H)+.

reactant | 4-amino-2-(trifluoromethyl)nicotinic acid | 18.14 mmol, 4.4 g | NC1=CC=NC(=C1C(=O)O)C(F)(F)F | C7H5F3N2O2
reactant | triethylamine | 60 mmol, 6 g | C(C)N(CC)CC | C6H15N
reactant | 1-(3,4-difluorophenyl)propan-2-amine | 21.90 mmol, 3.75 g | FC=1C=C(C=CC1F)CC(C)N | C9H11F2N
reactant | HBTU | 25.4 mmol, 9.63 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-amino-N-(1-(3,4-difluorophenyl)propan-2-yl)-2-(trifluoromethyl)nicotinamide | 6.57 g, 55% yield | NC1=CC=NC(=C1C(=O)NC(CC1=CC(=C(C=C1)F)F)C)C(F)(F)F | C16H14F5N3O
